US04904675
4-Cyclohexylnicotinic acid hydrochloride (4.5 g, 0.018 mol) is dissolved in methylene chloride (40 ml). This solution is mixed with a cold solution of metachloroperbenzoic acid (10.82 g, 0.063 mol) in CH2Cl2 (80 ml), and the resulting mixture is stirred at room temperature overnight. The precipitate obtained is filtered and the filtrate evaporated to dryness. The residue is suspended in ether. The precipitate is filtered, washed with ether and dried to yield 3-carboxy-4-cyclohexyl-pyridine N-oxide, m.p. 168°-169°. (c) To a solution of 3-carboxy-4-cyclohexyl-pyridine N-oxide (3.09 g, 0.014 mol), sodium cyanide (2.47 g, 0.05 mol) and triethylamine (7.08 g, 0.07 mol) in absolute dimethylformamide (50 ml), chlorotrimethylsilane (7.6 g, 0.07 mol) is added. The reaction mixture is then heated for 28 h at 85°. After cooling, the inorganic salts are filtered, washed with diethyl ether, and the filtrate is evaporated at 50° in vacuo. The dark residue is purified by chromatography on Florisil® (ethyl acetate/methanol 4:1) to yield 5-carboxy-2-cyano-4-cyclohexyl-pyridine; m.p. 225°-230°, Rf =0.55.

reactant | 4-Cyclohexylnicotinic acid hydrochloride | 0.018 mol, 4.5 g | Cl.C1(CCCCC1)C1=CC=NC=C1C(=O)O
reactant | metachloroperbenzoic acid | 0.063 mol, 10.82 g | ClC1=CC(=CC=C1)C(=O)OO | C7H5ClO3
solvent | methylene chloride | 40 ml | C(Cl)Cl | CH2Cl2
solvent | CH2Cl2 | 80 ml | C(Cl)Cl | CH2Cl2
product | 3-carboxy-4-cyclohexyl-pyridine N-oxide | C(=O)(O)C=1C=[N+](C=CC1C1CCCCC1)[O-] | C12H15NO3
